US07662811B2
To a solution of 2-(2-bromophenyl)-ethanamine (10 g, 50 mmol) and NEt3 (13.9 mL, 100 mmol) in 50 mL of dry THF at room temperature was slowly added TFAA (7.76 mL, 55 mmol). After stirring at room temperature for 1 h, the reaction mixture was quenched with Sat. NaHCO3 solution, extracted with EtOAc, washed with brine, dried over Na2SO4, and evaporated in vacuo to give of N-(2-bromophenethyl)-2,2,2-trifluoroacetamide as a white solid.

reactant | 2-(2-bromophenyl)-ethanamine | 50 mmol, 10 g | BrC1=C(C=CC=C1)CCN | C8H10BrN
reactant | NEt3 | 100 mmol, 13.9 mL | CCN(CC)CC | C6H15N
reactant | TFAA | 55 mmol, 7.76 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-(2-bromophenethyl)-2,2,2-trifluoroacetamide | BrC1=C(CCNC(C(F)(F)F)=O)C=CC=C1 | C10H9BrF3NO
